US06107337
A solution of 1-[(4'-fluorobiphenyl-4-sulfonyl)-(2-methoxycarbonylethyl)amino]-cyclopentane-1-carboxylic acid benzyl ester (12.1 grams, 22.4 mmole) in methanol (270 mL) was treated with 10% palladium on activated carbon and hydrogenated in a Parr™ shaker at 3 atmospheres pressure for 3.5 hours. After filtration through nylon (pore size 0.45 μm) to remove the catalyst, the solvent was evaporated to afford 1-[(4'-fluorobiphenyl-4-sulfonyl)-(2-methoxycarbonylethyl)amino]cyclopentane-1-carboxylic acid as a white foam (10.1 grams, 100%).

reactant | 1-[(4'-fluorobiphenyl-4-sulfonyl)-(2-methoxycarbonylethyl)amino]-cyclopentane-1-carboxylic acid benzyl ester | 22.4 mmole, 12.1 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(CCC(=O)OC)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C29H30FNO6S
solvent | methanol | 270 mL | CO | CH4O
catalyst | palladium on activated carbon | [Pd] | Pd
product | 1-[(4'-fluorobiphenyl-4-sulfonyl)-(2-methoxycarbonylethyl)amino]cyclopentane-1-carboxylic acid | 10.1 grams, 100% | FC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N(C1(CCCC1)C(=O)O)CCC(=O)OC | C22H24FNO6S
